US08609688B2
3-[3-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-8-oxa-3-azabicyclo[3.2.1]octane
A mixture of 3-(3-bromophenyl)-8-oxa-3-azabicyclo[3.2.1]octane (361 mg, 1.35 mmol), bis(pinacolato)diboron (376 mg, 1.48 mmol), Pd(dppf)Cl2.DCM (220 mg, 0.269 mmol) and potassium acetate (409 mg, 4.04 mmol) in dioxane (10 mL) was heated at 80° C. for 14 hours under nitrogen. After cooling to room temperature, the mixture was diluted with EtOAc and filtered through a Celite pad. The combined filtrate and washings were concentrated. The residue was purified by silica gel column chromatography (EtOAc/hexane=95:5→90:10→80:20) to afford desired product (375 mg, 88.3%) as orange solid.

reactant | 3-(3-bromophenyl)-8-oxa-3-azabicyclo[3.2.1]octane | 1.35 mmol, 361 mg | BrC=1C=C(C=CC1)N1CC2CCC(C1)O2 | C12H14BrNO
reactant | bis(pinacolato)diboron | 1.48 mmol, 376 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DCM | 0.269 mmol, 220 mg | C(Cl)Cl | CH2Cl2
reactant | potassium acetate | 4.04 mmol, 409 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-[3-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-8-oxa-3-azabicyclo[3.2.1]octane | 375 mg, 88.3% | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1CC2CCC(C1)O2)C | C18H26BNO3
